US06436921B1
N-(t-Butyloxycarbonyl)-β-alanine, 3.8 g (20 mmol) was dissolved in 50 ml of tetrahydrofuran, and the solution was cooled to 0° C. and stirred. To this mixture, 2.4 g (24 mmol) of triethylamine was added and 2.16 g (20 mmol) of ethyl chloroformate was slowly added. After stirring the reaction mixture for an hour at 0° C., 4 ml of 40% diethylamine aqueous solution was slowly added and stirred vigorously for an hour. The mixture was extracted by adding 100 ml of dichloromethane and 50 ml of water. The organic layer was washed with 1 N HCl aqueous solution and subsequently with saturated sodium bicarbonate aqueous solution. The washed mixture was dried to obtain 3.9 g (90%) of N-(t-butyloxy-carbonyl)-β-alanine dimethylamide.

reactant | N-(t-Butyloxycarbonyl)-β-alanine | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | triethylamine | 24 mmol, 2.4 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 20 mmol, 2.16 g | ClC(=O)OCC | C3H5ClO2
reactant | diethylamine | 4 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(t-butyloxy-carbonyl)-β-alanine dimethylamide | 3.9 g, 90% | CN(C(CCNC(=O)OC(C)(C)C)=O)C | C10H20N2O3
